US04309426
5-(4-Fluorophenyl)-N-methyl-6H-1,3,4-thiadiazin-2-amine hydrochloride
8.63 g of 4-fluorophenacyl chloride and 4.66 g of 4-methyl-thiosemicarbazide are reacted by using the conditions of Example 1. The resultant product is recrystallized from methanol/ethyl acetate yielding 5.6 g of 5-(4-fluorophenyl)-N-methyl-6H-1,3,4-thiadiazin-2-amine hydrochloride. M.p. 139°-141° C. The product compound is dried under high vacuum at 65° C.

reactant | 4-fluorophenacyl chloride | 8.63 g | FC1=CC=C(C(CCl)=O)C=C1 | C8H6ClFO
reactant | 4-methyl-thiosemicarbazide | 4.66 g | CNC(NN)=S | C2H7N3S
product | 5-(4-Fluorophenyl)-N-methyl-6H-1,3,4-thiadiazin-2-amine hydrochloride | Cl.FC1=CC=C(C=C1)C1=NN=C(SC1)NC | InChI=1S/C10H10FN3S.ClH/c1-12-10-14-13-9(6-15-10)7-2-4-8(11)5-3-7;/h2-5H,6H2,1H3,(H,12,14);1H
